US08957214B2
2-chloro-5-[N-(2-methylthioethyl)]aminomethylpyridine (Compound 23)
2-methylthioethylamine (3.0 g, 33 mmol) was dissolved in 25 mL of anhydrous dimethylformamide, following which 5.3 g (33 mmol) of 2-chloro-5-chloromethylpyridine, 1.6 g of 60% sodium hydride (net weight, 950 mg; 40 mmol) were added in this order, and stirring at 70° C. was carried out for 90 minutes. The reaction mixture was cooled to 0° C. and the reaction was brought to completion by adding about 30 mL of water a little at a time, after which the reaction mixture was extracted twice with about 50 mL of dichloromethane. The dichloromethane phase was dried over anhydrous magnesium sulfate, concentrated, and subsequently purified by silica gel column chromatography (hexane/ethyl acetate=1:1→ethyl acetate→dichloromethane/methanol=1:19→dichloromethane/methanol=1:10), giving 4.6 g of the target compound (yield, 64%).

reactant | 2-methylthioethylamine | 33 mmol, 3.0 g | CSCCN | C3H9NS
reactant | 2-chloro-5-chloromethylpyridine | 33 mmol, 5.3 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | sodium hydride | 40 mmol, 1.6 g | [H-].[Na+]
reactant | water | about 30 mL | O | H2O
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 2-chloro-5-[N-(2-methylthioethyl)]aminomethylpyridine | 4.6 g, 64% | ClC1=NC=C(C=C1)CNCCSC | C9H13ClN2S
